US07087626B2
3-Benzyl-4-bromo-butyric acid (1-pyridin-2-yl-2-quinolin-4-yl-ethylidene)-hydrazide
A solution of (1-pyridin-2-yl-2-quinolin-4-yl-ethylidene)-hydrazine (2.25 g, 8.40 mmol) in anhydrous dichloromethane (100 mL) and pyridine (1.81 mL, 22.4 mmol) is cooled to −78° C., treated with a solution of 3-benzyl-4-bromo-butyryl chloride (2.1 g, 7.8 mmol) in dichloromethane (10 mL), and stirred for 2 h. The mixture is treated with methanol (3 mL), stirred for 10 min, and diluted with saturated ammonium chloride solution (30 mL). The mixture is diluted with dichloromethane (300 mL), washed with water (2×50 mL) and brine (50 mL), dried with anhydrous sodium sulfate, filtered, and concentrated in vacuo. The residue is precipitated from ether to yield the title compound, 2.3 g (60%), as a pale yellowish solid.

reactant | (1-pyridin-2-yl-2-quinolin-4-yl-ethylidene)-hydrazine | 8.40 mmol, 2.25 g | N1=C(C=CC=C1)C(CC1=CC=NC2=CC=CC=C12)=NN | C16H14N4
reactant | pyridine | 22.4 mmol, 1.81 mL | N1=CC=CC=C1 | C5H5N
reactant | 3-benzyl-4-bromo-butyryl chloride | 7.8 mmol, 2.1 g | C(C1=CC=CC=C1)C(CC(=O)Cl)CBr | C11H12BrClO
reactant | methanol | 3 mL | CO | CH4O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | ammonium chloride | 30 mL | [Cl-].[NH4+]
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | 3-Benzyl-4-bromo-butyric acid (1-pyridin-2-yl-2-quinolin-4-yl-ethylidene)-hydrazide | N1=C(C=CC=C1)C(CC1=CC=NC2=CC=CC=C12)=NNC(CC(CBr)CC1=CC=CC=C1)=O | C27H25BrN4O
